Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Dizziness, diplopia and vertigo
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ old left-handed ___ 
speaking
man with no reported past medical history who presented to
___ with multiple complaints including dizziness,
diplopia and vertigo found to have a left cerebellar hypodensity
on CAT scan.  

History was obtained with a ___ interpreter over the
phone and was limited given poor health literacy and phone
interpretation.  Patient reports that he woke up this morning at
6 AM and immediately felt dizzy.  He had been normal on going to
bed last night.  He reported a headache on one side and noted
that he is having some nausea and vomiting.  He also had
difficulty walking on first getting up in the morning.  He
reported his legs felt heavy on both sides.  

He presented to ___ where his history was notable
for concern for blurry vision.  According to the outside 
hospital
records, patient reported he had trouble with his vision for
years and was focused on those symptoms.  He also reported
heaviness in his feet and hands.  He denied any dizziness to
those physicians.  Visual acuity tested there was ___
bilaterally.  He underwent head CT which showed a hypodensity in
the left cerebellum for which he was transferred to ___. 

On further discussion with the patient, he reports that he is
having double vision with images side by side.  When he closes
one eye (either eye), he is able to see single image.  This 
began
yesterday.  

He reports overall feeling better in terms of nausea, vomiting
and headache.  He is feeling more steady with walking as well.

 
Past Medical History:
None
 
Social History:
___
Family History:
No family history of stroke.

 
Physical Exam:
ADMISSION EXAMINATION
=====================
Vitals: T: 99.5 P: 60 R: 16  BP: 130/78 SaO2: 100% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3.  Difficulty relating 
details
of history.  Able to name days ___ week forward.  Language is
fluent with intact repetition and comprehension. Normal prosody.
There were no paraphasic errors.  Patient was able to name high
frequency but not low-frequency objects though this may have 
been
a language barrier. Speech was not dysarthric. Able to follow
both midline and appendicular commands though he had difficulty
with complex commands and some left-right confusion. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with right
greater than left sustained direction changing nystagmus.  VFF 
to
confrontation.  Reported horizontal diplopia though no change on
cover-uncover test or alternate-cover test.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5   5    ___   5    5   5    5    5      5   
R  5   5    ___   5    5   5    5    5      5   

-Sensory: No deficits to light touch, pinprick, proprioception
throughout. 

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    3   2
R  3  2    3    3   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor.  Likely slowed finger tap on
the left.  Mild dysmetria on left-sided finger-nose-finger.  No
dysmetria on heel-knee-shin on the left.  No truncal ataxia.  

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. 

DISCHARGE EXAMINATION
=====================
Vitals: Temp: 99.2 (Tm 100.1), BP: 115/72 (115-134/67-80), HR: 
67
(64-75), RR: 16 (___), O2 sat: 97% (97-98), O2 delivery: RA
 General: awake, cooperative, NAD
 HEENT: NC/AT, no scleral icterus noted, MMM
 Pulmonary: breathing comfortably, no tachypnea or increased WOB
 Cardiac: skin warm, well-perfused
 Abdomen: soft, ND
 Extremities: symmetric, no edema

Neurologic:

-Mental Status: Alert, cooperative. Language is fluent with 
intact comprehension. Able to follow both midline and 
appendicular commands. 

-Cranial Nerves: Face symmetric at rest and with activation. 
Hearing intact to conversation. Palate elevates symmetrically. 
Tongue protrudes in midline.

-Motor: Moves all extremities purposefully.

-Sensory: Intact to LT throughout. Sways to left on Romberg.

-DTRs: ___.

-Coordination: Slight difficulty with finger taps and rapid 
alternating movements on left compared to right.

-Gait: Slightly widened base but steady.
 
Pertinent Results:
___ 04:40AM BLOOD WBC-8.1 RBC-4.62 Hgb-14.2 Hct-42.4 MCV-92 
MCH-30.7 MCHC-33.5 RDW-12.1 RDWSD-40.8 Plt ___
___ 10:26AM BLOOD ___ PTT-30.3 ___
___ 04:40AM BLOOD Glucose-97 UreaN-9 Creat-0.9 Na-141 K-4.7 
Cl-101 HCO3-21* AnGap-19*
___ 07:04AM BLOOD ALT-12 AST-17 AlkPhos-75 TotBili-0.5
___ 04:25AM BLOOD Calcium-9.0 Phos-4.4 Mg-1.8
___ 10:26AM BLOOD D-Dimer-621*
___ 07:04AM BLOOD %HbA1c-5.4 eAG-108
___ 07:04AM BLOOD Triglyc-50 HDL-51 CHOL/HD-3.1 LDLcalc-99
___ 07:04AM BLOOD TSH-0.85

___ 8:29 ___ CTA HEAD AND CTA NECK 
1. Continued evolution of acute to early subacute infarct in the 
superior left cerebellar hemisphere, with slight involvement of 
the superior vermis.  No acute hemorrhage.  No significant mass 
effect. 
2. Occlusion of the left PCA P3 segment. 
3. Left superior cerebral artery appears patent, those distal 
course is 
difficult to assess definitively. 
4. Normal neck CTA. 
5. Paranasal sinus inflammatory changes without evidence for 
acute sinusitis. 
6. Periapical lucency and caries of the right mandibular first 
molar.  Please correlate with dental exam whether any associated 
active inflammation may be present. 

___ 11:41 ___ MR HEAD W/O CONTRAST 
1. Stable extent of evolving acute/early subacute infarction in 
the left 
superior cerebellar artery territory. 
2. Acute/early subacute infarction in the left posterior 
cerebral artery 
territory, involving the left occipital lobe, left posterior 
temporal lobe, posterior left thalamus, and posterior limb of 
left internal capsule, which likely occurred slightly later than 
the cerebellar infarction. 
3. No acute hemorrhage. 
4. New mild partial effacement of the left superior aspect of 
the fourth 
ventricle, and of the left ambient cistern.  No supratentorial 
hydrocephalus. New minimal rightward shift of the falx 
cerebellar I. 
5. Distal left PCA occlusion is better seen on the recent CTA. 
6. Slightly low bone marrow signal, which most likely represents 
red marrow reconversion in the setting of anemia, smoking, or 
chronic systemic illness.  More rarely, this may be secondary to 
an infiltrative process.  Please correlate with clinical history 
and laboratory data. 

Portable TTE (Congenital, complete) Done ___ at 10:48:12 
AM      
Atrial septal aneurysm with a PFO. Normal global and regional 
biventricular systolic function.  

TEE ___ 13:42
No spontaneous echo contrast or thrombus in the left atrium/left 
atrial appendage/right atrium/right atrial appendage. Aneurysmal 
interatrial septum. Normal global left ventricular systolic 
function. Simple atheroma in the descending thoracic aorta.

___ 4:16 ___ BILAT LOWER EXT VEINS 
No evidence of deep venous thrombosis in the bilaterallower 
extremity veins.

___ 6:16 ___ MRV PELVIS W&W/O CONTRAST 
Unremarkable examination.  No evidence of pelvic DVT.

 
Brief Hospital Course:
Mr. ___ is a ___ left-handed man without known past 
medical history presenting with acute-onset dizziness, diplopia, 
nausea, and gait imbalance. Head and neck imaging with CT and 
MRI demonstrated left cerebellar and occipital ischemic infarcts 
concerning for a cardioembolic source. Follow-up TTE and TEE 
revealed a patent foramen ovale with septal aneurysm, without 
evidence of accompanying DVT on bilateral lower extremity 
Doppler U/S or MRV pelvis. Additionally, no atrial fibrillation 
was noted on inpatient cardiac telemetry. Notably, however, 
elevated beta-2 glycoprotein IgM and IgG were noted (with 
negative anticardiolipin antibodies and negative lupus 
anticoagulant). Accordingly, evaluation for PFO closure was 
deferred to the outpatient setting pending follow-up 
antiphospholipid antibody testing at the Neurology follow-up 
visit. In the meantime, aspirin was initiated for secondary 
stroke prevention, with statin therapy deferred due to likely 
cardioembolic mechanism of infarction. Ambulatory cardiac 
monitoring was also arranged to assess for underlying paroxysmal 
atrial fibrillation.

TRANSITIONAL ISSUES
1. Repeat beta-2 glycoprotein antibody, anticardiolipin 
antibody, and lupus anticoagulant testing in at least 12 weeks.
2. Follow up cardiac monitoring for paroxysmal atrial 
fibrillation.
3. Outpatient cardiology evaluation pending above testing for 
PFO closure.
4. Started aspirin

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 99) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) () Yes - (x) No [likely 
cardioembolic mechanism of stroke without cerebral vessel 
atherosclerosis]  
 6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
 9. Discharged on statin therapy? () Yes - (x) No [likely 
cardioembolic mechanism of stroke without cerebral vessel 
atherosclerosis]  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - (x) N/A  
 
Medications on Admission:
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Enteric Coated Aspirin] 81 mg 1 (One) tablet(s) by 
mouth once a day Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left cerebellar ischemic infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
evaluation of dizziness, double vision, nausea, and 
unsteadiness. An MRI scan of your brain showed that your 
symptoms were caused by a stroke, a condition where a blood clot 
stops blood flow to your brain and damages the brain. In your 
case, blood tests showed that you may be at higher risk than 
usual of forming blood clots. This will need to be confirmed 
with a repeat blood test at your follow-up visit. You also 
received a heart monitor to look for a heart rhythm that can 
cause strokes. In the meantime, you were started on a new 
medication (aspirin) to reduce your risk of future strokes; it 
is important to take this medicine every day.

During your evaluation for stroke, we also found an abnormal 
connection in between two chambers of your heart. You need to 
follow up with cardiology for this. 

Please follow up with your primary care provider within one week 
of discharge. Please also follow up with Dr. ___ in 
Neurology and with Dr. ___ in Cardiology at the appointments 
listed below.

It was a pleasure taking care of you at ___.

Sincerely,
Neurology at ___
 
Followup Instructions:
___